US09102621B2
2,3-Dicyclopropylpyridine
3-Chloro-2-bromopyridine (5.0 g, 26.0 mmol) and potassium phosphate tribasic (19.3 g, 90.9 mmol) were suspended in toluene (40 mL) and water (2 mL). The reaction mixture was sonicated for 10 minutes, and then cyclopropylboronic acid (1.12 g, 13.0 mmol), palladium acetate (0.093 g, 0.414 mmol) and tricyclohexylphosphine (0.243 g, 0.867 mmol) were added to the reaction mixture, which was then placed in a pre heated DrySyn® bath at 100° C. The reaction mixture was then left to stir under nitrogen for two hours. Additional cyclopropylboronic acid (1.12 g, 13.0 mmol), palladium acetate (0.093 g, 0.414 mol) and tricyclohexylphosphine (0.243 g, 0.867 mmol) were added to the reaction mixture which was stirred for a further two hours. Additional cyclopropylboronic acid (1.12 g, 13.0 mmol), palladium acetate (0.093 g, 0.414 mmol) and tricyclohexylphosphine (0.243 g, 0.867 mmol) were again added to the reaction mixture which was stirred for a further two hours. The mixture was then left to stir at room temperature for 16 hours. The reaction mixture was diluted in ethyl acetate (40 mL) and water (40 mL) and was filtered on a pad of Arbocel® under a stream of nitrogen. The organic layer was then separated and washed three times with a 10% solution of aqueous citric acid (25 mL). The organic layer was discarded and the aqueous layer brought back to basic pH with careful addition of a saturated aqueous solution of sodium hydrogen carbonate (100 mL). The product was extracted three times with tert-butyl methyl ether (20 mL). The organic layers were combined, then dried over sodium sulfate, filtered, and concentrated in vacuo. The title compound was isolated as an orange oil (0.66 g, 16%):

reactant | 3-Chloro-2-bromopyridine | 26.0 mmol, 5.0 g | ClC=1C(=NC=CC1)Br | C5H3BrClN
reactant | potassium phosphate tribasic | 90.9 mmol, 19.3 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | cyclopropylboronic acid | 13.0 mmol, 1.12 g | C1(CC1)B(O)O | C3H7BO2
reactant | tricyclohexylphosphine | 0.867 mmol, 0.243 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | cyclopropylboronic acid | 13.0 mmol, 1.12 g | C1(CC1)B(O)O | C3H7BO2
reactant | tricyclohexylphosphine | 0.867 mmol, 0.243 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | cyclopropylboronic acid | 13.0 mmol, 1.12 g | C1(CC1)B(O)O | C3H7BO2
reactant | tricyclohexylphosphine | 0.867 mmol, 0.243 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 2 mL | O | H2O
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 0.414 mmol, 0.093 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium acetate | 0.414 mol, 0.093 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium acetate | 0.414 mmol, 0.093 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2,3-Dicyclopropylpyridine | C1(CC1)C1=NC=CC=C1C1CC1 | C11H13N
